.SUBCKT TC4431 1 2 3 4 5
*              | | | | |
*              | | | | UV_Lockout_Disable_Low
*              | | | Negative Supply
*              | | Positive Supply
*              | Output
*              Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following MOSFET drivers are covered by this model:
*      TC4431
*
* Polarity: Inverting
*
* Date of model creation: 8/25/2008
* Level of Model Creator: B
*
* Revision History:
*      12/06/07 HNV Created by edit of TC4431_I2D_B
*      8/25/08  RAW Modified upper Mosfet into an NPN
*
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: propgation delays, rise times, fall times, max sink/source current,
*            input thresholds, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, output current, output 
*            resistance,....,etc.
*
* Not Supported:
*      Lockout Disable is not supported
*      Output is modelled as a single pin.  Can be separated into two with a pair of
*      diodes if desired.  As is, model is drop in compatible with other driver models
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Known Discrepancies in Model vs. Datasheet:
*      Supply current due to shoot-through when switching is a little high.
*      Use data from datasheet for more accurate estimates. 
*
*
* Input Impedance/Clamp
R1  4  1    20MEG
C1  4  1    10P
G3  3  1    TABLE {V(3,1)}((-770M,-1.00)(-700M,-10.0M)(-630M,-10N)(0,0)(30.0,10N))
G4  1  4    TABLE {V(1,4)}((-5.94,-1.00)(-5.4,-10.0M)(-4.86,-10N)
+                 (0,0)(12,0.3U)(18,100U)(26,14m)(30,50m)(35,1))
* Threshold
G11 30 0    TABLE {V(112,11)}((-1,10n)(0,0)(0.88,-.1)
+ (1.5,-0.9)(2.2,-1)(4,-1.1)(6,-1.3))
G12 30 0    TABLE {V(112,12)}((-6,1.3)(-4,1.1)(-2.3,1)
+ (-1.8,.9)(-0.7,.1)(0,0)(1,-10n))
R21 0 11 1 TC .57m 1.7u  
G21 0 11 TABLE { V(3,4) } 
+ ((0,0)(4.5,1.83)(12,1.97)(18,2.095)(25,2.11)(30,2.12))
R22 0 12  1 TC .16m 2.2U  
G22 0 12 TABLE { V(3,4) } 
+ ((0,0)(4.5,1.49)(12,1.55)(18,1.59)(25,1.718)(30,1.70))
C30 30  0    1n  
* HL Circuit
*G31 0   31   TABLE { V(3, 4) } ((0,100)(4.5,63)(6,68)(7.5,38)(12,26)(18,22)(30,18))
G31 0   31   TABLE { V(3, 4) } ((0,170)(4.5,143)(6,78)(7.5,48)(12,36)(18,40)(30,38))
R31 31  0    1 TC 2.5M
G33 0   30   TABLE { V(31, 30) } ( (-1m,-5)(0,0)(1m,1n)(1,10n) )
S31 31  30 31 30 SS31
* LH Circuit
*G32 32  0    TABLE { V(3, 4) } ((0,200)(4.5,180)(6,80)(7.8,70)(30,60))
G32 32  0    TABLE { V(3, 4) } ((0,200)(4.5,160)(6,90)(7.8,80)(30,70))
R32 0   32   1 TC 2.5M 5U
G34 30  0    TABLE { V(30, 32) } ((-1m,-5)(0,0)(1m,1n)(1,10n))
R30 32  30   1MEG  
* DRIVE
G51  0 50 TABLE {V(0,30)}((-5,-1n)(-3,-1n)(0,0)(5,1.3)(30,1.5))
G52 50  0 TABLE {V(30,0)}((-5,-1n)(-3,-1n)(0,0)(5,0.7)(30,1.0))
R53  0 50 1 TC -7m 32u
G50 51 60 VALUE {V(50,0)*10/(9+(30/V(3,4))^3+1m)}
R51 51  0 1
G53  3  0 TABLE {V(51,0)} ((-10,10)(0,0)(1,1n))
G54  0  4 TABLE {V(0,51)} ((-10,10)(0,0)(1,1n))
R60 0   60   100MEG  
H67 0   69   V67 1
V67 60  59   0V
*C59 0   59   150P
*C60 0   60   250P
*R59 59  2   1m
C60 561  60   250p
R59 59   2    0.5
L59 59   2    10N
* Shoot-through adjustment
VC60 56 0 0V
RC60 56 561 1m
H60 58 0 VC60 1
G60P 0 3 TABLE { V(58, 0) } ((-1,-1u)(0,0)(0.25,0)(0.3,0))
G60N 4 0 TABLE { V(0, 58) } ((-1,-1u)(0,0)(0.25,0)(0.3,0))


* Source Output
*E67 67   0    TABLE {V(69, 0)}((-40,-40)(0,0)(40,150))
E67 67   0    TABLE {V(69, 0)}((-100,-0.622)(-1e-4,-0.6199)(0,0)(100u,2)(10m,2.2)(1,3.3)
*G63 0   63   POLY(1) 3 4 19.2 -0.951 15.4M
G63 0   63   TABLE {V(3, 4)}((-1,-1)(0,0)(4.5,1)(18,1.081)(25,1.0968)(30,1.0968)
R63 0    63   1 TC -2.5M -10u
E61 61   65   VALUE {V(67,0)*V(63,0)}
*V63 65   3    10M
V63 65   3    100u
*G61 61   60   TABLE {V(61,60)}((-12.0M,-200.0)(-11.0M,-60)(-10.0M,-6)(0,0)(.1,5N)(50,10N))
G61 61   60   TABLE {V(61,60)}((-12.0M,-200.0)(-11.0M,-60)(-10.0M,-6)(0,0)(.1,50N)(50,100N))
D61 59 3 Dbreak
* Sink Output
E68 68   0    TABLE {V(69,0)}((-150,-40)(0,0)(40,40))
*E68 68   0    TABLE {V(69,0)}((-150,-40)(0,0)(100u,2)(10m,2.2)(1,3.3))
G64 0   64   POLY(1) 3 4 10.77 -358M 6.3M
R64 0    64   1 TC 3M 6U
E62 62   66   VALUE {V(68,0)*V(64,0)}
V64 66   4    10.0M
G62 60   62   TABLE {V(60,62)}(-12.0M,-200.0)(-11.0M,-60)(-10.0M,-6)(0,0)(.1,5N)(10,10N))
*G62 60   62   TABLE {V(60,62)}(-12.0M,-200.0)(-11.0M,-60)(-10.0M,-1e-6)(0,0)(.1,5N)(10,10N))
D62 4 59 Dbreak
* Bias Current
G55 0    55   TABLE {V(3,4)}((0,0)(4,532U)(12,976U)(18,1.276M)(25,1.484M)(30,1.52M)
G56 3    4    55 0 1
R55 55   0    1 TC  5.1M
G57 0    57   TABLE {V(3,4)}((0,0)(4.5,100U)(12,113U)(18,133U)(25,177U)(30,190U)
G58 3    4    57 0 1
R57 57   0    1 TC  1.25M 13.1U
S59 55   0    112 0 SS59
* UV Lockout
* source DRIVERS
* debug... comment out all, add passthrough on switch
X119 3 118 117 119 TC4431_COMP_HYS
R112 3 112  200MEG 
C112 0 112 1p
S112  1 112 113 0 SS112
RS112 113 0 1G
S113  4 112 113 0 SS113
X112  115 5 111 114 TC4431_COMP_HYS
V118  118 4 8.05
V115  115 4 1.2
V120  111 4 0.4
I111  0 5 DC 10uAdc  
V117  117 4 0.7
E113  113 0 VALUE { IF( V(119)>0.5 | V(114)>0.5,1,0) }
R111  0 5  1MEG  
* Models
.MODEL SS59 VSWITCH Roff=100MEG Ron=1m Voff=1.5V Von=1.2V
.MODEL SS31 VSWITCH Roff=100MEG Ron=300 Voff=0.2V Von=0.1V
.MODEL SS112 VSWITCH Roff=100MEG Ron=1m Voff=0.6V Von=0.7V
.MODEL SS113 VSWITCH Roff=100MEG Ron=100 Voff=0.4V Von=0.3V
.model Dbreak D Is=1e-14 Cjo=.1pF Rs=.1
.ENDS TC4431_I2D_B
*
.SUBCKT TC4431_COMP_HYS INP INM HYS OUT 
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1)>0.5,-V(HYS)/2,V(HYS)/2) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1),1,0) }
R1 OUT 1 1
C1 1 0 1n 
RINP1 INP1 0 1K
.ends TC4431_COMP_HYS
